US05665754
3-(3-Cyclopentoxy-4-methoxyphenyl)-3-methoxycarbonyl-1-(phenylmethyl)pyrrolidine (1.6 g, 3.9 mmol) was dissolved in 40 mL of 4% HCO2H:methanol. While stirring at room temperature, 10% Pd/C (160 mg) was added in small portions. After 12 hr the reaction was diluted with methanol. Filtration through Celite followed by concentration under reduced pressure yielded a greenish oil residue, which was twice again concentrated from toluene. To this residue in 10 mL of CH2Cl2 at 0° C. was added 4-dimethylaminopyridine (620 mg, 5.0 mmol), followed by di-t-butyl-dicarbonate (1.02 g, 4.7 mmol). The bath was removed, and the mixture was stirred at room temperature. After 3 hr the reaction mixture was diluted with CH2Cl2, washed with 1M H3PO4, dried over MgSO4, filtered, and concentrated under reduced pressure. Silica gel chromatography (5:1, hexanes:ethyl acetate) provided 3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-3-(methoxycarbonyl)pyrrolidine as a colorless oil (1.2 g, 70%). 1H-NMR indicates a 1:1 mixture of rotamers. Anal. Calcd for C23H33NO6 : C, 65.85; H, 7.93; N, 3.34. Found: C, 65.66; H, 8.01; N, 3.26.

reactant | 3-(3-Cyclopentoxy-4-methoxyphenyl)-3-methoxycarbonyl-1-(phenylmethyl)pyrrolidine | 3.9 mmol, 1.6 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CN(CC1)CC1=CC=CC=C1)C(=O)OC | C25H31NO4
reactant | di-t-butyl-dicarbonate | 4.7 mmol, 1.02 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | HCO2H | 40 mL | C(=O)O | CH2O2
solvent | methanol | CO | CH4O
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 5.0 mmol, 620 mg | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | Pd/C | 160 mg | [Pd] | Pd
product | 3-(3-cyclopentoxy-4-methoxyphenyl)-1-(1,1-dimethylethoxycarbonyl)-3-(methoxycarbonyl)pyrrolidine | 1.2 g, 70% | C1(CCCC1)OC=1C=C(C=CC1OC)C1(CN(CC1)C(=O)OC(C)(C)C)C(=O)OC | C23H33NO6
